US08980877B2
(E)-3-[1′-Methyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (320 mg, 0.86 mmol) in DCM (4 ml) was treated with 1 M HCl in Et2O (4 ml) as described in Example 31, Step C, giving (E)-3-[1′-methyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-hydroxy-acrylamide (209 mg, hydrochloride salt) as a white solid.

reactant | (E)-3-[1′-Methyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.86 mmol, 320 mg | CN1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NOC2OCCCC2 | C20H24N2O5
reactant | HCl | 1 M | Cl | ClH
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
solvent | Et2O | 4 ml | CCOCC | C4H10O
product | (E)-3-[1′-methyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-hydroxy-acrylamide | 209 mg | CN1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NO | C15H16N2O4
